US05464808
Preparation of o-Amino-α-cyclopropylbenzyl alcohol
To a solution of o-aminophenyl cyclopropyl ketone (7.78 g, 48.3 mmol) in tetrahydrofuran at 0° C. is added 29 mL of a 1.0M lithium aluminum hydride solution in tetrahydrofuran. The reaction mixture is stirred at 0° C. for 2 hours, warmed to and stirred at room temperature for 16 hours, quenched with saturated ammonium chloride solution and extracted with ethyl acetate. The combined organic extracts are dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a residue. Flash column chromatography of the residue using silica gel and 30% to 50% ethyl acetate in hexanes solutions gives the title product as a yellow solid (5.02 g, 64%, mp 76°-79° C.) which is identified by 1HNMR and MS spectral analyses.

reactant | o-aminophenyl cyclopropyl ketone | 48.3 mmol, 7.78 g | C1(CC1)C(=O)C1=C(C=CC=C1)N | C10H11NO
reactant | lithium aluminum hydride | 1.0M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | o-Amino-α-cyclopropylbenzyl alcohol | 5.02 g, 64% | NC1=C(C(C2CC2)O)C=CC=C1 | C10H13NO
